* C:\Users\Ernesto\Desktop\Ingeniería Electrónica\9- Noveno Semestre\Electrónica Analógica III\TP2 - Amplificador de Microondas\Archivos de la Simulación\Fuente de Corriente en LTSpice\TP2 - Diseño de la fuente de corriente.asc
XU1 N001 N003 V_DD 0 N002 LT1006
R_sense V_DD N001 100
V_DD V_DD 0 5
XU2 N001 N002 0 0 BFP760
R1 N003 V_DD 40k
R2 N003 0 10k
* Simulación:
.inc infineon-rftransistor-spice.lib-simulationmodels-en.lib
.op
.lib C:\Users\Ernesto\Desktop\Ingeniería Electrónica\9- Noveno Semestre\Electrónica Analógica III\TP2 - Amplificador de Microondas\Archivos de la Simulación\Fuente de Corriente en LTSpice\infineon-rftransistor-spice.lib-simulationmodels-en.lib
.lib LTC.lib
.backanno
.end
